US08278442B2
Preparation 66: 6-(5-Formylquinolin-8-yloxy)nicotinonitrile
To a solution of 8-hydroxyquinoline-5-carbaldehyde (692 mg, 4 mmol) in sulfolane (8 mL) was added 2-chloro-5-cyanopyridine (552 mg, 4 mmol) and K2CO3 (1.7 g, 12 mmol). The reaction was heated at 90° C. for 2 h in a microwave. The reaction was cooled to rt and poured into water (100 mL). The resulting solid was filtered, washed with water, ether and air dried to give the title compound: RT=3.02 min; m/z (ES+)=276.0 [M+H]+.

reactant | 8-hydroxyquinoline-5-carbaldehyde | 4 mmol, 692 mg | OC1=CC=C(C=2C=CC=NC12)C=O | C10H7NO2
reactant | 2-chloro-5-cyanopyridine | 4 mmol, 552 mg | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | K2CO3 | 12 mmol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | sulfolane | 8 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | 6-(5-Formylquinolin-8-yloxy)nicotinonitrile | C(=O)C1=C2C=CC=NC2=C(C=C1)OC1=NC=C(C#N)C=C1 | C16H9N3O2
